* HL6042 P-Channel MOSFET SPICE Model
* Zhuhai Hongjiacheng Technology Co., Ltd
* Package: SOT-23
* VDS = -20V, ID = -5.0A, RDS(on) < 43mΩ @ VGS=-4.5V
* Model derived from datasheet Rev:2.0
* -------------------------------------------------------
* Pin order: Drain Gate Source
* -------------------------------------------------------

.SUBCKT HL6042 D G S

* ------ Internal MOSFET core (PMOS) ------
M1 Di Gi Si Si PMOS_HL6042 W=1 L=1

* ------ Gate resistance (from switching times tD~13ns, tr~9ns) ------
RG  G Gi 2.0

* ------ Drain resistance (RDS(on) budget + bond wire) ------
RD  D Di 0.005

* ------ Source resistance ------
RS  S Si 0.001

* ------ Body diode (VSD_max=1.0V, IS=-2A, Qrr=40nC, trr=20ns) ------
DBD Si Di DBODY_HL6042

* ------ Gate-drain capacitance (Crss typ 48pF @ VDS=-10V) ------
CGD Gi Di 48p

* ------ Gate-source capacitance (Ciss-Crss = 600-48 = 552pF typ) ------
CGS Gi Si 552p

* ------ Output capacitance (Coss typ 80pF @ VDS=-10V) ------
* Note: Coss = Cgd + Cds; Cds modelled here as remainder
CDS Di Si 32p

* -------------------------------------------------------
* PMOS model parameters
* VTH0  : threshold voltage  -> typ -0.6V (midpoint of -0.3 to -0.9V spec)
* KP    : transconductance   -> derived from gfs=20S, ID=4A, VGS=-4.5V
*          KP ~ 2*gfs / (W/L * (VGS-VTH)) = 2*20/(1*(4.5-0.6)) ~ 10.26 A/V²
* LAMBDA: channel length mod -> estimated 0.05 V⁻¹ (typical for -20V trench)
* RDS   : drain-source shunt -> 43mΩ target @ VGS=-4.5V (bulk already in RD/RS)
* CGSO/CGDO: overlap caps    -> split from Ciss/Crss above
* -------------------------------------------------------
.MODEL PMOS_HL6042 PMOS
+ LEVEL   = 3
+ VTO     = -0.6
+ KP      = 10.26
+ GAMMA   = 0.5
+ PHI     = 0.65
+ LAMBDA  = 0.05
+ RD      = 0.0
+ RS      = 0.0
+ CBD     = 30p
+ CBS     = 10p
+ IS      = 1e-14
+ PB      = 0.8
+ CGSO    = 552e-12
+ CGDO    = 48e-12
+ RSH     = 0.01
+ TOX     = 30e-9
+ XJ      = 0.2u
+ LD      = 0.0
+ UO      = 250
+ THETA   = 0.1
+ VMAX    = 2e5
+ ETA     = 0.0
+ KAPPA   = 0.2
+ NFS     = 1e11
+ TPG     = -1
+ NSS     = 0.0
+ TT      = 26n

* -------------------------------------------------------
* Body diode model
* Forward voltage ~1.0V @ IS=1A -> IS and N tuned accordingly
* Reverse recovery: trr=20ns, Qrr=40nC -> TT (transit time) = Qrr/IF = 40n/4 = 10ns
* -------------------------------------------------------
.MODEL DBODY_HL6042 D
+ IS      = 2.5e-10
+ N       = 1.15
+ RS      = 0.015
+ CJO     = 80p
+ M       = 0.45
+ VJ      = 0.8
+ BV      = 20
+ IBV     = 1e-3
+ TT      = 10n
+ EG      = 1.11
+ XTI     = 3.0

.ENDS HL6042

* -------------------------------------------------------
* Usage example:
*   X1 drain gate source HL6042
* -------------------------------------------------------
